US04831151
2.2 g of 1,3-diamino-2-methylimidazolium chloride and 6.9 g of 4-dimethylamino-3,5-dimethoxy-benzaldehyde are dissolved in 100 ml of glacial acetic acid, whereupon the solution is stirred at room temperature for 48 hours. The glacial acetic acid is distilled off in vacuo and the residue is dissolved in 100 ml of ethyl acetate. After crystallization sets in a further 300 ml of ethyl acetate are added thereto, whereupon the mixture is cooled to 10°. The crystallized-out material is filtered off under suction, washed with 100 ml of ethyl acetate and dried over potassium hydroxide in vacuo at 80°. There is obtained 1,3-bis[[4-(dimethylamino)-3,5-dimethoxybenzylidene]amino]-2-methylimidazolium chloride of decomposition point 226°.

reactant | 1,3-diamino-2-methylimidazolium chloride | 2.2 g | [Cl-].N[N+]1=C(N(C=C1)N)C
reactant | 4-dimethylamino-3,5-dimethoxy-benzaldehyde | 6.9 g | CN(C1=C(C=C(C=O)C=C1OC)OC)C | C11H15NO3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1,3-bis[[4-(dimethylamino)-3,5-dimethoxybenzylidene]amino]-2-methylimidazolium chloride | [Cl-].CN(C1=C(C=C(C=N[N+]2=C(N(C=C2)N=CC2=CC(=C(C(=C2)OC)N(C)C)OC)C)C=C1OC)OC)C | InChI=1S/C26H35N6O4.ClH/c1-18-31(27-16-19-12-21(33-6)25(29(2)3)22(13-19)34-7)10-11-32(18)28-17-20-14-23(35-8)26(30(4)5)24(15-20)36-9;/h10-17H,1-9H3;1H/q+1;/p-1
